Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
gabapentin / Lyrica / amitriptyline / honey
 
Attending: ___.
 
Chief Complaint:
Epistaxis, hypotension
 
Major Surgical or Invasive Procedure:
Tunneled line replacement ___

 
History of Present Illness:
___ is a ___ year old woman with past medical history of 
HIV on HAART, ESRD secondary to HIVAN, complex medical history 
with many hospitalizations (most recently for uremic 
pericarditis complicated by osteodystrophic left leg 
fracture)who presents from clinic with nose bleeding and 
hypotension from a clinic appointment. 

Patient reports that she began feeling lightheaded/dizzy on 
___ evening. She had her blood pressure measured at that 
time and it was normal. She reports that she subsequently became 
nauseous and reports that she has had poor oral intake since 
evening of ___, night prior to admission. She reports that she 
underwent dialysis today without complication. While at her 
clinic she reports she had recurrence of the dizziness. She 
states that she received fluids in the emergency department and 
that she feels better. 

She separately reports abdominal pain. This is in the right 
upper quadrant. She denies sharp pain. She states she feels she 
has to have a bowel movement but that she had difficulty passing 
a hard, nonbloody stool in the emergency department. 
 
Past Medical History:
HIV since ___, PCP PNAx3
ESRD secondary to HIV/AIDS nephropathy on HD (MWF) since ___ 
Currently dialyzed via L common femoral HD catheter
C.diff
Paroxysmal afib
Eight V1 herpes zoster ___ complicated by post-herpetic 
neuralgia and decreased vision in the right eye
Cervical dysplasia
Fibroids
Secondary hyperparathyroidism
Chronic headaches
Warfarin associated calciphylaxis c/b bilateral transmetatarsal 
amps requiring revisions, ___ left third finger dry gangrene, 
___ 
MRSA bacteremia and R HD tunneled line infection, ___ 
___: Right above-knee amputation
___: Right AT angioplasty 
___ Angioplasty of the left interosseous artery occlusion
___ UE angio: Occluded left radial and ulnar arteries
___ TMA revision left 
___ TMA revision right 
___ Bilateral open transmetatarsal amputation for b/l 
gangrene
multiple AV fistulas and grafts 
R femoral graft, 
IVC balloon plasty for 90% stenosis (___)
right lower extremity angiogram and balloon angioplasty of the 
right anterior tibial artery (___)
 
Social History:
___
Family History:
Sister-DM, CVD.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: BP ___ then 100/60s, HR 80 SPO2 100 on RA
GENERAL: Alert, oriented, no acute distress
HEENT: Cloudy right eye, left pupil reactive to light, Sclera 
anicteric, MMM, oropharynx clear, clotted blood of nares 
bilaterally
NECK: supple, no LAD, left jaw soft tissue larger than right
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops
ABD: soft, mild tenderness to RUQ, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly
EXT: has left leg, very tender to palpation around knee, s/p toe 
amputations, foot is cool, sensation intact, no edema, posterior 
tibial pulse palpable; black wound of right index finger
SKIN:  crust overlying chest
Lines: right subclavian line non erythematous, nontender, no 
clear purulent discharge
NEURO:  alert and oriented to person, place, month and year

DISCHARGE PHYSICAL EXAM:
Afebrile BP 85/21 HR 74 O2 Sat 100 on RA
Gen: no acute distress
HEENT: moist mucous membranes no bleeding or oozing from mouth
Chest: tunneled line without tenderness
CV: RRR, no murmurs rubs or gallops
Pulm: Clear to air bilaterally
Abd: soft, nontender
Ext: tenderness to palpation of left foot; s/p AKA on right, 
black wound of right index finger stable
 
Pertinent Results:
ADMISSION LABS:
___ 12:58PM BLOOD WBC-3.3* RBC-2.84* Hgb-8.5* Hct-28.2* 
MCV-99* MCH-29.9 MCHC-30.1* RDW-21.6* RDWSD-74.4* Plt ___
___ 12:58PM BLOOD Neuts-74.0* Lymphs-13.5* Monos-11.0 
Eos-0.9* Baso-0.3 NRBC-6.4* Im ___ AbsNeut-2.41 
AbsLymp-0.44* AbsMono-0.36 AbsEos-0.03* AbsBaso-0.01
___ 12:58PM BLOOD Plt Smr-NORMAL Plt ___
___ 01:34PM BLOOD ___ PTT-57.9* ___
___ 12:58PM BLOOD Glucose-50* UreaN-11 Creat-1.3*# Na-137 
K-3.7 Cl-96 HCO3-24 AnGap-17
___ 12:58PM BLOOD ALT-30 AST-41* LD(LDH)-218 AlkPhos-350* 
TotBili-0.2
___ 10:10PM BLOOD Calcium-8.8 Phos-3.3 Mg-2.0
___ 12:58PM BLOOD Albumin-3.5
___ 01:06PM BLOOD Lactate-2.0

IMAGING:

CXR ___: Impression - No areas of focal consolidation to 
suggest pulmonary edema.

TTE ___: Impression - No pericardial effusion. Normal 
biventricular cavity sizes, regional/global systolic function. 

Hand Xray ___:
Left hand: There has been previous amputation of the long finger 
at the base of the proximal phalanx.  This is unchanged.  
Fracture involving the distal phalanx of the index finger 
appears mostly healed.  There is acro-osteolysis of the index 
and small fingers.  There are vascular calcifications.  Surgical 
clips are seen adjacent to the distal radius.  Peripheral IV 
catheter is seen. There are mild-to-moderate degenerative 
changes of the first CMC joint.  No bony erosions are present. 
  
Right hand : No acute fractures or dislocations are seen.  
Vascular 
calcifications are seen.  There is acro-osteolysis particularly 
of the index finger. There are no erosions. 

Foot xray ___
  
There is extensive demineralization which limits evaluation.  
Patient 
undergone transmetatarsal amputation.  No definite cortical 
destruction is 
seen to indicate acute osteomyelitis however again the 
osteopenia markedly 
limits evaluation.  Extensive vascular calcifications throughout 
the soft 
tissues.  These findings have markedly progressed since 
essentially normal 
radiographs from ___ 

DISCHARGE LABS:
___ 04:14AM BLOOD WBC-6.4 RBC-2.84* Hgb-8.4* Hct-26.5* 
MCV-93 MCH-29.6 MCHC-31.7* RDW-21.4* RDWSD-70.2* Plt ___
___ 04:14AM BLOOD ___ PTT-37.7* ___
___ 04:14AM BLOOD Glucose-76 UreaN-8 Creat-1.7*# Na-144 
K-4.4 Cl-97 HCO3-24 AnGap-23*
___ 04:14AM BLOOD ALT-9 AST-37 LD(LDH)-256* AlkPhos-323* 
TotBili-0.2
___ 04:14AM BLOOD Albumin-3.1* Calcium-9.3 Phos-2.3* Mg-1.9
___ 04:51AM BLOOD Lactate-1.___ year old woman with past medical history of HIV complicated 
by renal failure on HD MWF, klebsiella bacteremia and tunneled 
line infection, multiple recent hospitalizations for 
pericarditis and left leg fracture who presented from clinic 
with hypotension and nose bleed. Her course was complicated by 
an episode of GI bleeding and ultimately underwent a HD line 
exchange with ___.

#Hypotension
BPs ___ on admission with lactates WNL. For reference, 
her blood pressure was typically in the ___ on her previous 
admission this ___. Due to concern for infection, she was 
started on Zosyn and transitioned to Meropenem, however on 
discharge abx were stopped after discussion with the patient's 
PCP and all cultures were negative. She was briefly called out 
to the floor, however she had an episode of BRBPR and returned 
to the ICU where she remained stable. 

#Coagulopathy 
During her admission she had several episodes of bleeding, 
including BRBPR, epistaxis and vaginal bleeding. At the time of 
her last discharge on ___ she was on aspirin 325 tid for 
uremic pericarditis. This likely contributed to her bleeding 
episodes. She was discharged this admission on aspirin 81mg 
daily. She was seen by Hematology on this admission, who 
recommended continuing her apixaban given her thrombotic 
history. She is due to be followed up in ___ clinic.

#Epistaxis
Seen and packed by ENT in ED on ___ will dissolve in 
___ days). She has a septal perforation, with plans for follow 
up in ENT outpatient clinic.

#BRBPR
GI was consulted because patient had melanotic stool during this 
admission. The episode occurred x1 and did not recur. GI did not 
recommend endoscopy at the time, because the bleeding did not 
appear to be localized to the GI tract.

#tunneled line infection
Blood cultures returned negative during admission. Her catheter 
was exchanged by ___ on ___.

#Recent C. diff infection
History of recurring C. diff infections. Status post empiric C. 
diff treatment for positive PCR during recent hospitalizations 
(___). She was restarted on vancomycin 125 PO q6h as 
prophylaxis in setting of starting broad spectrum antibiotics as 
above to be continued for 14d course.

#Renal osteodystrophy
X-rays of the foot showed progressive calcification. X-rays of 
the hand showed healing fracture. 

#Double vision
Patient complained of double vision while on the floor. 
Ophthalmology was consulted, however she refused to be examined 
by their team. 

#HIV Infection
Continued home dolutegravir, emtricitabine and tenofovir, as 
well as fluconazole, Bactrim, and acyclovir.

#ESRD on HD MWF: 
Continue home medications: sevelamer, nephrocaps, cinacalcet

#History of hepatic vein thrombosis
Continued apixaban 

#ERROR!
 TRANSITIONAL ISSUES: 
#ERROR!
[ ] Will need follow up scheduled with hematology
[ ] ENT follow up scheduled
[ ] Recommend CBC monitoring at PCP visit on ___
[ ] Please continue PO vanc for 14 day to end ___
[ ] Please consider outpatient visit with ophthalmology for 
double vision 

# Communication: HCP: ___, daughter, ___
# Code: Full 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO TID 
2. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
3. Acyclovir 400 mg PO DAILY 
4. Atorvastatin 20 mg PO QPM 
5. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation - First Line 
6. Cinacalcet 90 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
8. Dolutegravir 50 mg PO DAILY 
9. DULoxetine 30 mg PO DAILY 
10. Emtricitabine 200 mg PO 2X/WEEK (MO,FR) 
11. Fluconazole 200 mg PO Q24H 
12. Fludrocortisone Acetate 0.1 mg PO BID 
13. GuaiFENesin ER 600 mg PO Q12H:PRN cough 
14. Midodrine 15 mg PO TID 
15. Nephrocaps 1 CAP PO DAILY 
16. Omeprazole 20 mg PO BID 
17. Ondansetron 4 mg PO Q8H:PRN nausea 
18. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
19. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
20. Senna 17.2 mg PO BID:PRN Constipation - First Line 
21. Sertraline 50 mg PO DAILY 
22. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
23. Sulfameth/Trimethoprim DS 1 TAB PO 3X/WEEK (___) 
24. Tenofovir Disoproxil (Viread) 300 mg PO 1X/WEEK (SA) 
25. Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID:PRN rash 
26. HydrOXYzine 12.5 mg PO BID:PRN itching 
27. Apixaban 2.5 mg PO BID 
28. Vancomycin Oral Liquid ___ mg PO Q6H 
29. FoLIC Acid 0.8 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Vancomycin Oral Liquid ___ mg PO/NG Q12H  
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
4.  Acyclovir 400 mg PO DAILY  
5.  Apixaban 2.5 mg PO BID  
6.  Atorvastatin 20 mg PO QPM  
7.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation - First Line  
8.  Cinacalcet 90 mg PO DAILY  
9.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line  

10.  Dolutegravir 50 mg PO DAILY  
11.  DULoxetine 30 mg PO DAILY  
12.  Emtricitabine 200 mg PO 2X/WEEK (MO,FR)  
13.  Fluconazole 200 mg PO Q24H  
14.  Fludrocortisone Acetate 0.1 mg PO BID  
15.  FoLIC Acid 0.8 mg PO DAILY  
16.  GuaiFENesin ER 600 mg PO Q12H:PRN cough  
17.  HydrOXYzine 12.5 mg PO BID:PRN itching  
18.  Midodrine 15 mg PO TID  
19.  Nephrocaps 1 CAP PO DAILY  
20.  Omeprazole 20 mg PO BID  
21.  Ondansetron 4 mg PO Q8H:PRN nausea  
22.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate  
23.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
24.  Senna 17.2 mg PO BID:PRN Constipation - First Line  
25.  Sertraline 50 mg PO DAILY  
26.  sevelamer CARBONATE 1600 mg PO TID W/MEALS  
27.  Sulfameth/Trimethoprim DS 1 TAB PO 3X/WEEK (___)  
28.  Tenofovir Disoproxil (Viread) 300 mg PO 1X/WEEK (SA)  
29.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID:PRN rash  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses: 
Tunneled line infection 
Epistaxis

Secondary diagnoses:
HIV infection
Double vision 
Tibial fracture
ESRD on HD
Recent C diff infection
History of hepatic vein thrombosis 
Calciphylaxis
Atrial fibrillation 
Peripheral vascular disease
Chronic cough
GERD
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure caring for you during your admission to ___. 
Below you will find information regarding your stay.

WHY WAS I ADMITTED TO THE HOSPITAL?  
- You were admitted because you were having a nose bleed and 
there was concern that your blood pressure was low.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?  
- You were seen by the ear, nose and throat doctors who placed 
some packing in your nose.
- You had your hemodialysis line replaced.
- You had some bleeding from your GI tract and you were seen by 
the blood disorder doctors who recommended we continue your 
apixaban.

WHAT SHOULD I DO WHEN I GO HOME?  
- Your nose packing should dissolve in around one week.
- Please follow up with the ear, nose and throat doctors as ___ 
as the blood disorder doctors. 

Thank you for letting us be a part of your care!  

Your ___ Care Team  

 
Followup Instructions:
___